US08030500B2
1-(2-(Difluoromethyl)pyridin-4-yl)-4-fluoro-1-(2-(pyrimidin-5-yl)pyridin-4-yl)-1H-isoindol-3-amine
1-(2-Bromopyridin-4-yl)-1-(2-(difluoromethyl)pyridin-4-yl)-4-fluoro-1H-isoindol-3-amine (64 mg, 0.15 mmol), 5-pyrimidinylboronic acid (23.80 mg, 0.19 mmol), [1,1′-bis (diphenylphosphino)ferrocene]palladium(II) chloride (6.03 mg, 7.39 μmol), cesium carbonate (0.035 mL, 0.44 mmol) and DME:EtOH:water (6:3:1) (3.00 mL) were put in a microwave vial and heated at 150° C. in a microwave reactor for 20 min. The reaction mixture was filtered through a syringe filter and purified by prep-HPLC. The desired fractions were pooled and freeze dried over night to give the title compound (25.7 mg, 39%).

reactant | 1-(2-Bromopyridin-4-yl)-1-(2-(difluoromethyl)pyridin-4-yl)-4-fluoro-1H-isoindol-3-amine | 0.15 mmol, 64 mg | BrC1=NC=CC(=C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C(F)F | C19H12BrF3N4
reactant | 5-pyrimidinylboronic acid | 0.19 mmol, 23.80 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | cesium carbonate | 0.44 mmol, 0.035 mL | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | [1,1′-bis (diphenylphosphino)ferrocene]palladium(II) chloride | 7.39 μmol, 6.03 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DME EtOH water | 3.00 mL | COCCOC.CCO.O
product | 1-(2-(Difluoromethyl)pyridin-4-yl)-4-fluoro-1-(2-(pyrimidin-5-yl)pyridin-4-yl)-1H-isoindol-3-amine | 25.7 mg, 39% | FC(C1=NC=CC(=C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C=1C=NC=NC1)F | C23H15F3N6
